US09056859B2
A sealed tube containing 3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one (72 mg, 35 mmol), 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride (109 mg, 0.35 mmol), DIEA (0.2 mL) and EtOH (3 mL) was heated to 80 C for 12 hours. The excess solvent was removed and the crude product purified via MPLC (35% EtOAc/Hex-60% EtOAc/Hex) to give 6-[1-hydroxy-2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-3-methyl-3,4-dihydro-1H-isochromen-1-one. LC-MS (IE, m/z): 477 [M+1]+.

reactant | 3-methyl-6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one | 35 mmol, 72 mg | CC1OC(C2=CC=C(C=C2C1)C1OC1)=O | C12H12O3
reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | 0.35 mmol, 109 mg | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | DIEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 6-[1-hydroxy-2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-3-methyl-3,4-dihydro-1H-isochromen-1-one | OC(CN1CCN(CC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O)C=1C=C2CC(OC(C2=CC1)=O)C | C25H28N6O4
